US06130238
Concentrated sulfuric acid (45 mL) containing 5 mL of water was warmed to 60° C. and 8.6 g of N-(2-hydroximinoacetyl)anisidine was added in one portion. The stirred mixture was heated to 93° C. for 10 minutes and then allowed to cool to room temperature. The mixture was poured into 500 g of ice and extracted 3 times with ethyl acetate. The combined extracts were dried over anhydrous sodium sulfate and concentrated to give 5.1 g (65% yield) of 5-methoxyisatin as a dark red solid. 5-Methoxyisatin (5.0 g) and 30 mL of hydrazine hydrate were heated to reflux for 15 minutes. The reaction mixture was cooled to room temperature and 50 mL of water was added. The mixture was extracted 3 times with 25 mL of ethyl acetate each time, the organic layers combined, dried over anhydrous sodium sulfate and concentrated to give a yellow solid. The solid was stirred in ethyl acetate and 1.1 g of insoluble material was removed by vacuum filtration and saved. This material proved to be 2-hydrazinocarbonylmethyl-4-anisidine. The filtrate was concentrated and chromatographed on silica gel eluting with ethyl acetate:hexane (1:1) to give 0.7 g of 5-methoxy-2-oxindole as a yellow solid. The 1. 1 g of 2-hydrazinocarbonylmethyl-4-anisidine was refluxed for 1 hour in 20 mL of 1N sodium hydroxide. The mixture was cooled, acidified to pH 2 with concentrated hydrochloric acid and extracted 3 times with 25 mL of ethyl acetate each time. The organic extracts were combined, washed with brine, dried over anhydrous sodium sulfate and concentrated to give 0.8 g of 5-methoxy-2-oxindole as a yellow solid. The combined yield was 1.5 g or 33%.

reactant | sulfuric acid | 45 mL | S(O)(O)(=O)=O | H2O4S
reactant | N-(2-hydroximinoacetyl)anisidine | 8.6 g | N(O)=CC(=O)NC1=CC=C(OC)C=C1 | C9H10N2O3
solvent | water | 5 mL | O | H2O
product | 5-methoxyisatin | 5.1 g, 65% yield | COC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO3
